US09260408B2
(rac)-N-(1-(5-Bromopyridin-3-yl)ethyl)-N-ethylethanesulfonamide
In analogy to the procedure described for the preparation of intermediate A-42, N-(1-(5-bromopyridin-3-yl)ethyl)ethanesulfonamide (intermediate A-37) was reacted with iodoethane in presence of NaH (60% in mineral oil) to give the title compound as a yellow oil. MS: 321.0 and 323.1 (M+H+).

reactant | N-(1-(5-bromopyridin-3-yl)ethyl)ethanesulfonamide | BrC=1C=C(C=NC1)C(C)NS(=O)(=O)CC | C9H13BrN2O2S
reactant | iodoethane | ICC | C2H5I
reactant | NaH | [H-].[Na+]
product | (rac)-N-(1-(5-Bromopyridin-3-yl)ethyl)-N-ethylethanesulfonamide | BrC=1C=C(C=NC1)C(C)N(S(=O)(=O)CC)CC | C11H17BrN2O2S
